US08802858B2
(1H-Benzoimidazol-2-yl)-hydroxyimino-acetonitrile
To an ice-cooled stirred solution of 10 g of 2-benzimidazolylacetonitrile (63.6 mmol, 1 eq) in 50 ml of glacial acetic acid is added dropwise a solution of 4.83 g of sodium nitrite (70 mmol, 1.1 eq) dissolved in a minimum amount of water (10 mL). When the addition is completed, the reaction mixture is allowed to stir at room temperature for 1 h. The precipitate formed in the course of the reaction is filtered and washed with 2×20 ml of cold water and 2×30 ml of diethylether to provide 11.8 g of the product as light yellow solid.

reactant | 2-benzimidazolylacetonitrile | 63.6 mmol, 10 g, 1 eq | N1=C(NC2=C1C=CC=C2)CC#N | C9H7N3
reactant | sodium nitrite | 70 mmol, 4.83 g, 1.1 eq | N(=O)[O-].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
product | (1H-Benzoimidazol-2-yl)-hydroxyimino-acetonitrile | 11.8 g | N1C(=NC2=C1C=CC=C2)C(C#N)=NO | C9H6N4O
